US07074800B1
A solution of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (1.76 g, 5.47 mmol), (prepared as described for the starting material in Example 9), 4-fluoro-5-hydroxyindole (0.992 g, 6.57 mmol), (prepared as described for the starting material in Example 242), in DMF (25 ml) containing potassium carbonate (1.14 g; 8.21 mmol) was heated at 95° C. for 1 hour. After cooling, the mixture was filtered and washed with DMF. The filtrate was evaporated and the residue was purified by column chromatography eluting with methanol/methylene chloride (1/9) followed by methanol/methanol chloride/methanol (containing ammonia) (16/80/4). The fractions containing the expected product were combined and evaporated. The residue was repurified by column chromatography eluting with a gradient of methylene chloride/methanol (80/20 to 40/60). The fractions containing the expected product were combined and evaporated. The residue was triturated in cold methanol and the solid was filtered, washed with ether and dried under vacuum to give 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (1.24 g, 52%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 5.47 mmol, 1.76 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 4-fluoro-5-hydroxyindole | 6.57 mmol, 0.992 g | FC1=C2C=CNC2=CC=C1O | C8H6FNO
reactant | potassium carbonate | 8.21 mmol, 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 1.24 g, 52% | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C24H25FN4O3
